US06498254B1
Preparation of 3-chloro-2-[[chloro(2,5-dimethylphenyl)methyl]sulfonyl]pyridine-N-oxide
To a suspension of 2.2 g (0.01 mole) of 3-chloro-2-[[1-(2,5-dimethylphenyl)-methyl]sulfonyl]pyridine-N-oxide in 10 ml of dimethylformamide (DMF) was added 2 g (0.013 mole) of carbon tetrachloride. The mixture was cooled to 15° C. and then treated with 0.5 g (0.013 mole) of NaOFl. The mixture was stirred and allowed to warm to room temperature for two hours. It was then poured into cold water and the solid was filtered off, having a melting point of 125-127° C. Infrared and NMR spectra were consistent with the proposed structure.

reactant | 3-chloro-2-[[1-(2,5-dimethylphenyl)-methyl]sulfonyl]pyridine-N-oxide | 0.01 mole, 2.2 g | ClC=1C(=[N+](C=CC1)[O-])S(=O)(=O)CC1=C(C=CC(=C1)C)C | C14H14ClNO3S
reactant | carbon tetrachloride | 0.013 mole, 2 g | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-chloro-2-[[chloro(2,5-dimethylphenyl)methyl]sulfonyl]pyridine-N-oxide | ClC=1C(=[N+](C=CC1)[O-])S(=O)(=O)C(C1=C(C=CC(=C1)C)C)Cl | C14H13Cl2NO3S
